US06541661B1
Step 1: Methyl-4-(3-oxo-3-phenylpropenyl)-benzoate (46)
To 4-carbomethoxybenzaldehyde (79 mg, 0.48 mmol) and acetophenone (56 μL, 0.48 mmol) in anhydrous methanol (1.6 mL), was added neat sodium methoxide (26 mg, 0.48 mmol). The mixture was stirred at room temperature overnight then heated to reflux for 1 hour, cooled down to room temperature and added HCl 1N and EtOAc. The layers were separated and the organic layer dried over anhydrous MgSO4 and filtered. The solvent was evaporated under vacuum to afford a yellow solid, which was recrystallized from acetonitrile/water to give a pale yellow crystalline solid.

reactant | 4-carbomethoxybenzaldehyde | 0.48 mmol, 79 mg | C(=O)(OC)C1=CC=C(C=O)C=C1 | C9H8O3
reactant | acetophenone | 0.48 mmol, 56 μL | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium methoxide | 0.48 mmol, 26 mg | C[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 1.6 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl-4-(3-oxo-3-phenylpropenyl)-benzoate | COC(C1=CC=C(C=C1)C=CC(C1=CC=CC=C1)=O)=O | C17H14O3
